US09289510B2
Synthesis of N-methacryloylglycylglycyl-thiazolidine-2-thione (MA-GG-TT) (Scheme 32)
The synthesis of MA-GG-TT was similar to the synthesis of MA-GFLG-TT in Example 1. N-methacryloylglycylglycine (MA-GG-OH) was coupled with 2-mercaptothiazoline in DCM mediated by EDCI in presence of catalytic amount of DMAP. After reaction, the product was purified by recrystallization from MeOH solution.

reactant | N-methacryloylglycylglycine | C(C(=C)C)(=O)NCC(=O)NCC(=O)O | C8H12N2O4
reactant | 2-mercaptothiazoline | SC=1SCCN1 | C3H5NS2
reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-methacryloylglycylglycyl-thiazolidine-2-thione | C(C(=C)C)(=O)NCC(=O)NCC(=O)N1C(SCC1)=S | C11H15N3O3S2
